US07368578B2
To a solution of 3-methoxy-4-[(5-methyl-2-piperidin-1-yl-1,3-thiazol-4-yl)methoxy]benzaldehyde (0.50 g) in tetrahydrofuran (5 mL)-ethanol (5 mL) was gradually added sodium borohydride (0.05 g) at room temperature. After stirring for 1 hr, water was added to the reaction mixture and the precipitated crystals were collected by filtration to give {3-methoxy-4-[(5-methyl-2-piperidin-1-yl-1,3-thiazol-4-yl)methoxy]phenyl}methanol as colorless crystals (0.44 g, yield 90%). melting point: 92-93° C.

reactant | 3-methoxy-4-[(5-methyl-2-piperidin-1-yl-1,3-thiazol-4-yl)methoxy]benzaldehyde | 0.50 g | COC=1C=C(C=O)C=CC1OCC=1N=C(SC1C)N1CCCCC1 | C18H22N2O3S
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | sodium borohydride | 0.05 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | {3-methoxy-4-[(5-methyl-2-piperidin-1-yl-1,3-thiazol-4-yl)methoxy]phenyl}methanol | 0.44 g, yield 90% | COC=1C=C(C=CC1OCC=1N=C(SC1C)N1CCCCC1)CO | C18H24N2O3S
